US08685974B2
3-(5-chloro-2-thienyl)-5-methyl-1H-pyrazole (111 mmol) was dissolved in 200 mL dry 1V, N-dim ethyl formamide and cooled to 0° C. under nitrogen atmosphere. N-Bromosuccinimide (118 mmol) was added in small portions at 0° C. The reaction mixture was allowed to warm to room temperature and was stirred overnight. The solution was poured into a mixture of saturated aqueous sodium thiosulfate solution and saturated aqueous sodium carbonate solution (1:1) at room temperature. The precipitate was filtered, washed thoroughly with water, dissolved in ethyl acetate, dried over MgSO4, filtered and evaporated to afford 19.5 g of 4-bromo-3-(5-chloro-2-thienyl)-5-methyl-1H-pyrazole (64% yield) that was used without further purification.

reactant | 3-(5-chloro-2-thienyl)-5-methyl-1H-pyrazole | 111 mmol | ClC1=CC=C(S1)C1=NNC(=C1)C | C8H7ClN2S
reactant | N-Bromosuccinimide | 118 mmol | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
product | 4-bromo-3-(5-chloro-2-thienyl)-5-methyl-1H-pyrazole | 19.5 g, 64% yield | BrC=1C(=NNC1C)C=1SC(=CC1)Cl | C8H6BrClN2S
